US07521449B2
A) 1-Benzyl-4-(3,4-difluorophenyl)piperid-4-ol
To a suspension of 7.55 g of magnesium in 50 ml of THF is added dropwise a solution of 50 g of 1-bromo-3,4-difluorobenzene in 100 ml of THF so as to reach and then maintain reflux, and the mixture is left at reflux for 2 hours with stirring. After cooling to rt, a solution of 49 g of 1-benzyl-4-piperidinone in 100 ml of THF is added dropwise and the mixture is then stirred at RT overnight. The reaction mixture is poured onto saturated NH4Cl solution and extracted with ether, the organic phase is dried over Na2SO4 and the solvent is evaporated under vacuum. 38.3 g of the expected product are obtained after crystallization from cyclohexane.

reactant | magnesium | 7.55 g | [Mg] | Mg
reactant | 1-bromo-3,4-difluorobenzene | 50 g | BrC1=CC(=C(C=C1)F)F | C6H3BrF2
reactant | 1-benzyl-4-piperidinone | 49 g | C(C1=CC=CC=C1)N1CCC(CC1)=O | C12H15NO
reactant | NH4Cl | [NH4+].[Cl-]
solvent | THF | 50 ml | C1CCOC1 | C4H8O
solvent | THF | 100 ml | C1CCOC1 | C4H8O
solvent | THF | 100 ml | C1CCOC1 | C4H8O
product | 1-Benzyl-4-(3,4-difluorophenyl)piperid-4-ol | 38.3 g | C(C1=CC=CC=C1)N1CCC(CC1)(O)C1=CC(=C(C=C1)F)F | C18H19F2NO
